US04069258
1-Methyl-2-(2,2-dimethyl-2-formylethyl)-3-isopropenylcyclopent-1-ene
A mixture of 857 g (5 moles) of 1-methyl-2-chloromethyl-3-isopropenylcyclopentene and 360 g (5 moles) of isobutyraldehyde was added in the course of 5 hours, whilst stirring, to a mixture of 480 g of 50% strength sodium hydroxide solution, 24 g of tetrabutylammonium iodide and 500 ml of toluene, at 80° C. The organic phase was then separated off and washed repeatedly with 200 ml portions of water, the toluene was stripped off and the residue was distilled in a rotary evaporator; boiling point 75°-77° C/0.3 mm Hg; nD25 : 1.4788; the structure was confirmed by the nuclear resonance spectrum; yield: 76%.

reactant | 1-methyl-2-chloromethyl-3-isopropenylcyclopentene | 5 moles, 857 g | CC1=C(C(CC1)C(=C)C)CCl | C10H15Cl
reactant | isobutyraldehyde | 5 moles, 360 g | C(C(C)C)=O | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium iodide | 24 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Methyl-2-(2,2-dimethyl-2-formylethyl)-3-isopropenylcyclopent-1-ene | yield: 76% | CC1=C(C(CC1)C(=C)C)CC(C=O)(C)C | C14H22O
